Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old female who presents with
headache and SAH. 6 weeks prior, she gave birth to her second
child. She has been taking care of her ___ year old and 6 week 
old,
so was feeling very tired. She decided to take 40 mg of 
Adderall,
which she is not prescribed but occasionally  takes 30- 60 mg).
After which, around 7 pm,  her heart started racing and she 
began
to have a headache. She describes her headache as "finger 
slammed
in door" " throbbing" "wanted to break head open like an egg"
lots of pressure". The location is bifrontal to vertex to neck.
She tried ibuprofen 600 mg x1 without relief and Xanax 0.25 mgx 
1
for her anxiety. Pain was so terrible, she couldn't open eyes, 
so
she went to the ED. Her headache resolved ~11 pm, when was given
morphine and other medications. At  ___, a ___
was done and revealed a SAH at parietal vertex, so she was
transferred for neurosurgical eval. 
Since transfer, she has had intermittent headache, resolved with
pain medication. Her head mostly feels sore now, and is worse
with sitting up, but not when walking; no nausea/
photophobia/phonophobia. She does not usually have headache. 
 
Past Medical History:
s/p C-Section
 
Social History:
___
Family History:
Grandfather lung cancer, Uncle leukemia,
Grandmother aortic aneurysm rupture. HTN 

 
Physical Exam:
ADMISSION EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits.
Pulmonary: CTABL. No R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G 
Abdomen: soft, NT/ND, +BS, no masses or organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Unable to 
fully
visualize fundus b/l.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE EXAM:
Exam remains non focal without weakness, numbness. Afebrile. No
meningismus. trigger point in the left greater occipital nerve
exit point.

 
Pertinent Results:
___ 03:15AM   WBC-9.4 RBC-4.49 HGB-12.9 HCT-38.9 MCV-87 
MCH-28.7 MCHC-33.2 RDW-12.6 RDWSD-39.4
___ 03:15AM   PLT COUNT-299
___ 03:15AM   NEUTS-80.1* LYMPHS-15.1* MONOS-4.1* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-7.51* AbsLymp-1.42 AbsMono-0.38 
AbsEos-0.00* AbsBaso-0.04
___ 03:15AM   ___ PTT-33.8 ___
___ 03:15AM   GLUCOSE-108* UREA N-15 CREAT-0.9 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-22 ANION GAP-17
___ 03:15AM   ALT(SGPT)-85* AST(SGOT)-51* ALK PHOS-139* TOT 
BILI-0.2
___ 03:15AM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG

CTA Head/Neck (___):
1. Small amount of right frontal vertex subarachnoid hemorrhage 
at the vertex with slight increased vascularity, which is likely 
reactive in nature.  Trace associated gyral hypodensity. 
2. Short-segment right vertebral dissection within the 
transverse foramen of C1, with a patent distal right vertebral 
artery. 
3. No evidence of aneurysm or AV malformation. 
4. There is a 3 mm right upper lobe pulmonary nodule.  If the 
patient has no known risk factors, no further follow-up is 
advised by ___ criteria.  Otherwise, ___hest followup is recommended. 

MRI Head (___): 
1. Re-demonstrated is right frontal convexity subarachnoid 
hemorrhage with some redistribution into the cerebral aqueduct 
and fourth ventricle.
2. No acute intracranial infarct is seen. 

CTA Head/Neck (___):
1. Stable small right frontal vertex subarachnoid hemorrhage. 
2. Short segment right vertebral artery dissection in the 
transverse foramen of C1 with patent distal right vertebral 
artery. 
3. Probable short segment dissection involving the left 
vertebral artery just proximal to the origin of left posterior 
inferior cerebellar artery with patent distal artery. 
4. No aneurysm or AV malformation. 
5. 3 mm right upper lobe pulmonary nodule for which no further 
follow-up is advised by the ___ criteria in case 
of no known risk factors.  If the patient has known risk factors 
then ___ year follow-up with chest CT is recommended. 

 
Brief Hospital Course:
Mrs. ___ was admitted to the ___ Stroke service on 
___ after presenting at an OSH ED for severe 
headache and noted to have a subarachnoid hemorrhage.  She was 
transferred to ___ for further management.  Repeat CTA 
Head/Neck demonstrated a small amount of right frontal vertex 
subarachnoid hemorrhage at the vertex with slight increased 
vascularity, which is likely reactive in nature.  There was 
trace associated gyral hypodensity.  She was also noted to have 
a short-segment right vertebral dissection within the transverse 
foramen of C1, with a patent distal right vertebral artery.  
There was no evidence of aneurysm or AV malformation. 
Neurosurgery was consulted and did not recommend surgical 
intervention.  Basic labs upon admission including CBC, Chem, 
Coags, and Utox were unremarkable.  

She was admitted to the stroke service for observation and 
treatment of headache.  Patient was started on Verapamil 40 mg 
TID which was subsequently increased to 80 mg TID the following 
day due to ongoing headache.  Mrs. ___ used Fioricet and 
Oxycodone q6h PRN for pain.  Her pain was well controlled on 
this regimen.  

MRI was performed to reevaluate her SAH and assess for any 
intracranial pathology associated with her R vertebral 
dissections. MRI re-demonstrated right frontal convexity 
subarachnoid hemorrhage with some redistribution into the 
cerebral aqueduct and fourth ventricle, unchanged from previous 
CTA.  

Prior to discharge one more image was taken due to ongoing 
complaints of L sided neck pain.  Initial wet read of the image 
showed stable findings as compared to previous images.  
Patient's neck pain showed improvement with heat, therefore, 
this was felt to be likely musculoskeletal in origin.  She was 
felt to be stable for discharge home with Fioricet as needed for 
HA and Valium as needed for neck pain.

TRANSITIONAL ISSUES:
-CTA Head/Neck was also notable for a 3 mm right upper lobe 
pulmonary nodule.  It was advised that if the patient has no 
known risk factors, no further follow-up is advised by 
___ criteria.  Otherwise, ___hest 
followup is recommended. 

Addenedum: At the time this discharge summary was written 
(___), final read of CTA Head/Neck from ___ was reviewed 
and final read notes: Stable small right frontal vertex 
subarachnoid hemorrhage. Short segment right vertebral artery 
dissection in the transverse foramen of C1 with patent distal 
right vertebral artery and probable short segment dissection 
involving the left vertebral artery just proximal to the origin 
of left posterior inferior cerebellar artery with patent distal 
artery. There was not notable aneurysm or AV malformation. This 
new finding was reviewed by myself and the attending physician 
who were in agreement with the read.  Patient is to be contacted 
by attending to determine further evaluation and potential 
initiation of ASA.
 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth every 6 hours Disp #*30 Capsule Refills:*1
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Verapamil SR 240 mg PO Q24H 
RX *verapamil 240 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2
4. Diazepam 5 mg PO Q8H:PRN neck spasm/pain 
RX *diazepam 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subarachnoid Hemorrhage
Reversible Cerebral Vasoconstrictive Syndrome
Right/Left Vertebral Dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
 
___ were admitted to the ___ Neurology service for symptoms of 
severe headache due to subarachnoid hemorrhage, related to 
reversible cerebral vasoconstriction syndrome (___). ___ were 
also noted to have an incidental  right vertebral dissection 
noted on your CT scan, but we do not feel this was related to 
your presenting symptoms.  

___ were started the following medications:
1.  Verapamil - to prevent your headaches
2.  Fioricet - to treat the current headache

___ can take Valium 5mg at home if your neck pain continues. 

 
Followup Instructions:
___